US09403798B2
6-[(Dimethylamino)methyl]-4-[4-(4-fluorophenyl)piperazin-1-yl]-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one
To a dichloromethane solution (1.5 mL) of 4-[4-(4-fluorophenyl)piperazin-1-yl]-6-(hydroxymethyl)-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one (10.0 mg, 21.3 μmol) synthesized in Synthesis Example 458b, triethylamine (6.0 μL, 42.6 μmol) and methanesulfonyl chloride (2.4 μL, 32.0 μmol) were added and the resultant mixture was stirred at room temperature for 1 hour and 30 minutes. The volume of the reaction solution was divided in half. To one of the divided reaction solution, dimethylamine (20 μL) and 1,4-dioxane (4.0 mL) were added and the resultant mixture was stirred at 90° C. for 20 minutes. After the completion of the reaction, the reaction solution was concentrated under reduced pressure and the resultant residue was purified by silica gel column chromatography (ethyl acetate) to obtain the title compound (1.05 mg, yield: 20%).

reactant | 4-[4-(4-fluorophenyl)piperazin-1-yl]-6-(hydroxymethyl)-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one | 21.3 μmol, 10.0 mg | FC1=CC=C(C=C1)N1CCN(CC1)C1=NC(N(C(=N1)CO)CC=1SC(=CC1)C(F)(F)F)=O | C20H19F4N5O2S
reactant | triethylamine | 42.6 μmol, 6.0 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 32.0 μmol, 2.4 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | dimethylamine | 20 μL | CNC | C2H7N
solvent | 1,4-dioxane | 4.0 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | 6-[(Dimethylamino)methyl]-4-[4-(4-fluorophenyl)piperazin-1-yl]-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one | 1.05 mg, yield: 20% | CN(C)CC1=NC(=NC(N1CC=1SC(=CC1)C(F)(F)F)=O)N1CCN(CC1)C1=CC=C(C=C1)F | C22H24F4N6OS
